US06255251B1
1.0 g (2.5 mmol) 5-Cyclopropyl-3-methylsulfanyl-4-(2-methanesulfonyl-4-trifluoromethylbenzoyl)isoxazole is dissolved in 12 ml dichloromethane. The solution is then cooled to a temperature of −5° C., and 0.62 g (70%, 2.5 mmol) m-chloroperbenzoic acid is added in portions. After 18 hours' agitation at a temperature of 0 to 5° C., the reaction mixture is diluted with dichloromethane and the resulting precipitate filtered off. The dichloromethane phase is successively extracted with 5% aqueous NaHCO3 solution, twice with water and 15% aqueous sodium chloride solution. After the organic phase has been separated off, it is dried over magnesium sulfate. The raw product obtained is subjected to flash chromatography on silica gel using ethyl acetate/hexane (first 1:1 then 2:1) as eluent. After stirring in a little diisopropylether, 0,8 g of 5-cyclopropyl-3-methylsulfinyl-4-(2-methanesulfonyl-4-trifluoromethylbenzoyl)isoxazole is obtained in the form of crystals with a melting point of 153-155° C. 1H-NMR (CDCl3, ppm): 0.96-1.16 (m, 2H), 1.2-1.36 (m, 1H), 1.32-1.4 (m, 2H), 3.12 (s, 3H), 3.32 (s, 3H), 7.72 (d, 1H), 8.05 (d, 1H), 8.41 (s, 1H).

reactant | 5-Cyclopropyl-3-methylsulfanyl-4-(2-methanesulfonyl-4-trifluoromethylbenzoyl)isoxazole | 2.5 mmol, 1.0 g | C1(CC1)C1=C(C(=NO1)SC)C(C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)C)=O | C16H14F3NO4S2
reactant | m-chloroperbenzoic acid | 2.5 mmol, 0.62 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 5-cyclopropyl-3-methylsulfinyl-4-(2-methanesulfonyl-4-trifluoromethylbenzoyl)isoxazole | 0,8 g | C1(CC1)C1=C(C(=NO1)S(=O)C)C(C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)C)=O | C16H14F3NO5S2
